US07407954B2
2-Amino-thiophene-3-carboxylic acid tert-butyl ester I
A solution of 1,4 dithiane-2,5-diol (1.1 g) and t-butyl cyanoacetate (2.2 ml) in dry tetrahydrofuran (20 ml) was warmed to ˜45° C. then treated slowly with triethylamine (2ml). The temperature rose to ˜54° C. and a yellow colouration developed. The mixture was stirred at ˜50° C. for a further 75 mins during which time the colour gradually darkened and became brownish. Water (200 ml) was added, then the mixture was acidified with acetic acid and extracted with ether. The ether extracts were washed with water, dried on magnesium sulfate, filtered and concentrated in vacuo. Residual acetic acid was removed by azeotropic distillation with toluene. The resulting brown liquid was identified as the desired product by NMR. The sample was used without further purification.

reactant | 1,4 dithiane-2,5-diol | 1.1 g | S1C(CSC(C1)O)O | C4H8O2S2
reactant | t-butyl cyanoacetate | 2.2 ml | C(#N)CC(=O)OC(C)(C)C | C7H11NO2
reactant | triethylamine | 2ml | C(C)N(CC)CC | C6H15N
reactant | Water | 200 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Amino-thiophene-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1=C(SC=C1)N | C9H13NO2S
